US05393755
2-(trans-2-Hydroxycyclohexylamino)-1,7-bis(phenylmethyl)purin-6-one
Treat 2-chloro-1,7-bis(phenylmethyl)purin-6-one with trans-2-aminocyclohexanol as described in Preparative Example 5 to give the title compound, a tan foam. FAB MS: M+1=430.

reactant | 2-chloro-1,7-bis(phenylmethyl)purin-6-one | ClC=1N(C(C=2N(C=NC2N1)CC1=CC=CC=C1)=O)CC1=CC=CC=C1 | C19H15ClN4O
reactant | trans-2-aminocyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 2-(trans-2-Hydroxycyclohexylamino)-1,7-bis(phenylmethyl)purin-6-one | O[C@H]1[C@@H](CCCC1)NC=1N(C(C=2N(C=NC2N1)CC1=CC=CC=C1)=O)CC1=CC=CC=C1 | C25H27N5O2
